US07067506B2
Step 4: 4-[3-(5-Methyl-pyrazin-2-yl)-ureido]-3-trifluoromethoxy-benzoic acid.
To a stirred suspension of 4-[3-(5-methyl-pyrazin-2-yl)-ureido]-3-trifluoromethoxy-benzoic acid methyl ester (136 mg, 0.37 mmol) in 4 mL 3:1 MeOH:H2O under nitrogen was added lithium hydroxide monohydrate (154 mg, 3.7 mmol), and the reaction heated to 65° C. The reaction turned yellow/green and eventually became a solution. After stirring overnight, the reaction was cooled to RT and partially concentrated by rotovap to remove most of the MeOH. The residual suspension was neutratized with 2N HCl until pH=6. The reaction formed a floculent precipitate which was filtered off with H2O and dried overnight under high vacuum to give the acid as a white solid (102 mg, 78%).

reactant | 4-[3-(5-methyl-pyrazin-2-yl)-ureido]-3-trifluoromethoxy-benzoic acid methyl ester | 0.37 mmol, 136 mg | COC(C1=CC(=C(C=C1)NC(=O)NC1=NC=C(N=C1)C)OC(F)(F)F)=O | C15H13F3N4O4
reactant | MeOH | CO | CH4O
reactant | lithium hydroxide monohydrate | 3.7 mmol, 154 mg | O.[OH-].[Li+]
solvent | H2O | O | H2O
product | 4-[3-(5-Methyl-pyrazin-2-yl)-ureido]-3-trifluoromethoxy-benzoic acid | 102 mg, 78% | CC=1N=CC(=NC1)NC(NC1=C(C=C(C(=O)O)C=C1)OC(F)(F)F)=O | C14H11F3N4O4
